US09315494B2
A reaction vial was charged with 3-((2-chloro-5-(methylcarbamoyl)pyridin-4-yl)amino)-2-methoxybenzoic acid (600 mg, 1.787 mmol), 5-fluoro-4-methylpyridin-2-amine (316 mg, 2.502 mmol), BrettPhos (38.4 mg, 0.071 mmol) and Pd2(dba)3 (32.7 mg, 0.036 mmol) and the contents were flushed with nitrogen before adding dioxane (2 mL) and DMA (1 mL). The resulting slurry was sparged with additional nitrogen for ˜1 minutes, then LiHMDS (1 M in THF) (3.93 mL, 3.93 mmol) was added and the resulting dark amber colored solution was heated in a preheated heating block at 110° C. for 2 h, then cooled to room temperature. The reaction mixture was added to water (80 mL) and the pH was adjusted with aq. 1N HCl to ˜3 causing a solid to precipitate from solution. After stirring the slurry at room temperature for ˜4 h, the solid was collected by vacuum filtration, rinsed with water, and dried on the filter to afford 3-((2-((5-fluoro-4-methylpyridin-2-yl)amino)-5-(methylcarbamoyl)pyridin-4-yl)amino)-2-methoxybenzoic acid (736 mg, 1.730 mmol, 97% yield) as a beige solid. HPLC (Method N) RT=2.45 minutes. LCMS (m+1)=426.

reactant | 3-((2-chloro-5-(methylcarbamoyl)pyridin-4-yl)amino)-2-methoxybenzoic acid | 1.787 mmol, 600 mg | ClC1=NC=C(C(=C1)NC=1C(=C(C(=O)O)C=CC1)OC)C(NC)=O | C15H14ClN3O4
reactant | 5-fluoro-4-methylpyridin-2-amine | 2.502 mmol, 316 mg | FC=1C(=CC(=NC1)N)C | C6H7FN2
reactant | LiHMDS | 3.93 mmol, 1 M, 3.93 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | HCl | 1N | Cl | ClH
catalyst | Pd2(dba)3 | 0.036 mmol, 32.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BrettPhos | 0.071 mmol, 38.4 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
solvent | water | 80 mL | O | H2O
product | 3-((2-((5-fluoro-4-methylpyridin-2-yl)amino)-5-(methylcarbamoyl)pyridin-4-yl)amino)-2-methoxybenzoic acid | 1.730 mmol, 736 mg, 97% yield | FC=1C(=CC(=NC1)NC1=NC=C(C(=C1)NC=1C(=C(C(=O)O)C=CC1)OC)C(NC)=O)C | C21H20FN5O4
